US07598257B2
A solution of 4-(5-bromopyridin-3-yl)morpholine (100 mg, 0.0004 mol) in ether (2 mL, 0.02 mol) cooled at −78° C. was treated with 2.5 M n-butyllithium in hexane (0.2 mL) and was stirred for 1 h. To this mixture was added DMF (0.5 mL, 0.006 mol) dropwise. The reaction was quenched with water and extracted with ethyl acetate. The combined organic layers were washed with saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated to give 5-morpholin-4-ylnicotinaldehyde (70 mg, 90%) as a crude product. 1H NMR (400 MHz, CDCl3): δ 10.1 (s, 1H), 8.0 (s, 2H), 7.6 (s, 1H), 3.8 (m, 4H), 3.2 (m, 4H).

reactant | 4-(5-bromopyridin-3-yl)morpholine | 0.0004 mol, 100 mg | BrC=1C=C(C=NC1)N1CCOCC1 | C9H11BrN2O
reactant | ether | 0.02 mol, 2 mL | CCOCC | C4H10O
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | DMF | 0.006 mol, 0.5 mL | CN(C)C=O | C3H7NO
solvent | hexane | 0.2 mL | CCCCCC | C6H14
product | 5-morpholin-4-ylnicotinaldehyde | 70 mg, 90% | N1(CCOCC1)C=1C=NC=C(C=O)C1 | C10H12N2O2
